US07491710B2
291 μl (1.09 eq; 3.172 mmol) of dimethylphosphite, 442 μl (1.09 eq; 3.172 mmol) of triethylamine and 134 mg (0.04 eq; 0.116 mmol) of tetrakis(triphenylphosphine)palladium(0) are stirred under an argon atmosphere for 15 minutes. 897 mg (1 eq; 2.91 mmol) of trifluoromethanesulfonic acid 1-acetyl-1H-indazol-5-yl ester in solution in 60 ml of dimethylformamide. The medium is heated at 105° C. for 4 hours under an argon atmosphere. The solvent is evaporated off under reduced pressure in a rotary evaporator, with 40 ml of toluene being added. The reaction crude is taken up in 40 ml of ethyl acetate and then washed with 50 ml of water. The organic phase is dried over magnesium sulfate and then filtered and the solvent is evaporated off under reduced pressure in a rotary evaporator. 973.6 mg of crude product are obtained. The reaction crude is purified by flash chromatography (silica 35-70 μm), eluent: ethyl acetate/cyclohexane 80:20 to obtain 430.5 mg of (1-acetyl-1H-indazol-5-yl)phosphonic acid dimethyl ester.

reactant | dimethylphosphite | 3.172 mmol, 291 μl, 1.09 eq | COP(OC)[O-]
reactant | triethylamine | 3.172 mmol, 442 μl, 1.09 eq | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid 1-acetyl-1H-indazol-5-yl ester | 2.91 mmol, 897 mg, 1 eq | C(C)(=O)N1N=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C10H7F3N2O4S
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.116 mmol, 134 mg, 0.04 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1-acetyl-1H-indazol-5-yl)phosphonic acid dimethyl ester | 430.5 mg | COP(OC)(=O)C=1C=C2C=NN(C2=CC1)C(C)=O | C11H13N2O4P
